US05180742
A solution of p-nitrophenyl 7-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-7-phenyl-heptanoate (0.50 g, 1.05 mmoles) and 4-(2-phenylethyl)piperazine (0.20 g, 1.05 mmoles) in dichloromethane was allowed to stand at room temperature under stirring for 18 hours. After the solvent was evaporated in a reduced pressure, the residue was dissolved in ethylacetate and the solution was washed with aqueous potassium carbonate and water, and dried over magnesium sulfate. The solvent was evaporated and the residue was chromatographed on silica gel column with ethylacetate followed by chloroform-methanol (10:1) as eluant to give 4-[7-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-7-phenylheptanoyl]-(2-phenylethyl)piperazine (0.51 g, 92%) as an oil.

reactant | p-nitrophenyl 7-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-7-phenyl-heptanoate | 1.05 mmoles, 0.50 g | CC1=C(C(C(=C(C1=O)C)C)=O)C(CCCCCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C28H29NO6
reactant | 4-(2-phenylethyl)piperazine | 1.05 mmoles, 0.20 g | C1(=CC=CC=C1)CCN1CCNCC1 | C12H18N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[7-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-7-phenylheptanoyl]-(2-phenylethyl)piperazine | 0.51 g, 92% | CC1=C(C(C(=C(C1=O)C)C)=O)C(CCCCCC(=O)N1CCN(CC1)CCC1=CC=CC=C1)C1=CC=CC=C1 | C34H42N2O3
